US05686254
(a) Preparation of [2-(4-Bromophenoxy)ethoxy](1,1-dimethylethyl)dimethylsilane (1a)
To a solution of [2-(4-bromophenoxy)ethanol (10.0 g, 46 mmol) in 150 mL dry dimethylformamide (30 mL) was added t-butyldimethylsilyl chloride (8.34 g, 55 mmol) and imidazole (7.82 g, 115 mmol). Additional dimethylformamide (20 mL) was used to wash these materials into the reaction flask. The resulting solution was stirred overnight at rt with a Newman tube. It was poured onto water (200 mL) and extracted with ether (3×75 mL). The combined extracts were washed with 0.5N HCl (200 mL), sat. NaHCO3 (200 mL), water (4∴150 mL), and sat. NaCl (200 mL), dried over MgSO4, and filtered. The solvent was removed under reduced pressure on a rotary evaporator to give the crude product (16.5 g; >100%). 1H NMR (CDCl3) δ7.34 (2H, d, J=8.9), 6.78 (2H, d, J=8.9), 4.00-3.93 (4H, m), 0.89 (9H, s), 0.08 (6H, s). 13C NMR (CDCl3) δ158.1, 132.2, 116.4, 112.8, 69.6, 61.9, 25.9, 18.4. FDMS (m/e) 330 (M+, 79Br). It was used as 100% without purification.

reactant | 2-(4-bromophenoxy)ethanol | 46 mmol, 10.0 g | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
reactant | t-butyldimethylsilyl chloride | 55 mmol, 8.34 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 115 mmol, 7.82 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | [2-(4-Bromophenoxy)ethoxy](1,1-dimethylethyl)dimethylsilane | 16.5 g, >100% | BrC1=CC=C(OCCO[Si](C)(C)C(C)(C)C)C=C1 | C14H23BrO2Si
